US04012513
Ethyl 5-methoxy-2-methyl-1-(2-phenylquinol-4-yl)indol-3-ylacetate (2.1g.) in ethanol (20ml.) and 2N-sodium hydroxide solution (20ml.) was refluxed for 0.25 hour. Most of the ethanol was removed in vacuo and the residue was diluted with water (50ml.). The resulting mixture was filtered, and the residue was washed with water and dried at 60° C. to give 5-methoxy-2-methyl-1-(2-phenylquinol-4-yl)indol-3-ylacetic acid sodium salt monohydrate, m.p. 179°-180° C.

reactant | Ethyl 5-methoxy-2-methyl-1-(2-phenylquinol-4-yl)indol-3-ylacetate | 2.1g | COC=1C=C2C(=C(N(C2=CC1)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)C)CC(=O)OCC | C29H26N2O3
reactant | sodium hydroxide | 20ml | [OH-].[Na+]
solvent | ethanol | 20ml | C(C)O | C2H6O
product | 5-methoxy-2-methyl-1-(2-phenylquinol-4-yl)indol-3-ylacetic acid sodium salt monohydrate | O.[Na+].COC=1C=C2C(=C(N(C2=CC1)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)C)CC(=O)[O-] | InChI=1S/C27H22N2O3.Na.H2O/c1-17-21(15-27(30)31)22-14-19(32-2)12-13-25(22)29(17)26-16-24(18-8-4-3-5-9-18)28-23-11-7-6-10-20(23)26;;/h3-14,16H,15H2,1-2H3,(H,30,31);;1H2/q;+1;/p-1
